US07419936B2
(5R)-5-[4′-(Trifluoromethoxy)-1,1′-biphenyl-4-yl]-2-pyrrolidinone (VII-1)
Under argon, (5R)-1-allyl-5-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]-2-pyrrolidinone (XVII-1) (0.41 g, 1.14 mmol) is initially charged in a Schlenk tube together with Pd[PPh3]4 (131.7 mg, 0.114 mmol) and p-toluenesulphonic acid hydrate (0.52 g, 2.74 mmol), and THF (2 ml, degassed) and 1 ml of H2O are added. The yellow suspension is heated under reflux for 3 h. For work-up, the mixture, which was cooled to room temperature, is diluted with NaHCO3 solution and admixed with ethyl acetate and filtered through kieselguhr. The combined organic phases are dried (Na2SO4) and concentrated under reduced pressure.

reactant | (5R)-1-allyl-5-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]-2-pyrrolidinone | 1.14 mmol, 0.41 g | C(C=C)N1C(CC[C@@H]1C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)=O | C20H18F3NO2
reactant | p-toluenesulphonic acid hydrate | 2.74 mmol, 0.52 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | H2O | 1 ml | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5R)-5-[4′-(Trifluoromethoxy)-1,1′-biphenyl-4-yl]-2-pyrrolidinone | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)[C@H]1CCC(N1)=O)(F)F | C17H14F3NO2
